US07030128B2
2,6-Dibromopyridine was coupled with 7-(1-fluoro-1-methylethyl)-3-tributylstannylimidazo[1,2-α]pyrimidine by the method of Example 1 to afford 3-(6-bromopyridin-2-yl)-7-(1-fluoro-1-methylethyl)imidazo[1,2-α]pyrimidine (1.0 g, 68%) as a pale yellow solid: δH (360 MHz, CDCl3) 1.81 (6H, d, J 22), 7.37 (1H, d, J 8), 7.42 (1H, dd, J 7 and 2), 7.61 (1H, dd, J 8 and 8), 7.71 (1H, dd, J 8 and 1), 8.33 (1H, s), 10.09 (1H, d, J 7).

reactant | 2,6-Dibromopyridine | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 7-(1-fluoro-1-methylethyl)-3-tributylstannylimidazo[1,2-α]pyrimidine | FC(C)(C)C1=NC=2N(C=C1)C(=CN2)[Sn](CCCC)(CCCC)CCCC
product | 3-(6-bromopyridin-2-yl)-7-(1-fluoro-1-methylethyl)imidazo[1,2-α]pyrimidine | 1.0 g, 68% | BrC1=CC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(C)(C)F | C14H12BrFN4
